US05998433
To a solution of the 2-(3-furyl)ethyl methanesulfonate in 500 ml of N,N-dimethylformamide, 14.2 g (76.8 mmol) of potassium phthalimide was added, followed by overnight stirring at 100° C. After cooling to room temperature, the reaction mixture was added to water while being stirred vigorously. The resulting precipitate was filtered, washed with water and dried to yield N-[2-(3-furyl)ethyl]phthalimide.

reactant | 2-(3-furyl)ethyl methanesulfonate | CS(=O)(=O)OCCC1=COC=C1 | C7H10O4S
reactant | potassium phthalimide | 76.8 mmol, 14.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-furyl)ethyl]phthalimide | O1C=C(C=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H11NO3
